US08017646B2
To a solution of 3-(3,4-dimethoxyphenyl)prop-2-en-1-ol (270 mg) in dimethyl-sulfoxyde (4 mL) are added successively powdered potassium hydroxyde (175 mg 85% wt) and, portionwise, 1-(3-chloropropyl)piperidine, hydrochloride (250 mg). The mixture is stirred overnight at room temperature, then hydrolysed with water (80 mL). The solution is extracted twice with ethyl acetate (20 mL). The combined extracts are washed twice with water (10 mL), dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel with a gradient dichloromethane/methanol from 98/2 to 90/10. Fractions containing the expected product are pooled, concentrated under reduced pressure, dissolved in 10 mL of dichloromethane, filtered over Millipore membrane and concentrated under reduced pressure. The base thus obtained is dissolved in 2 mL of ethanol and 100 μL of diethyl oxide. A solution of 88 mg of oxalic acid in 2 mL of ethanol is added. The precipitate that appears is filtered, washed with diethyl oxide and dried under reduced pressure at a temperature close to 40 C to give 185 mg of trans-1-{3-[3-(3,4-dimethoxyphenyl)allyloxy]propyl}piperidine, oxalate as a white powder melting at 111-112° C.

reactant | 3-(3,4-dimethoxyphenyl)prop-2-en-1-ol | 270 mg | COC=1C=C(C=CC1OC)C=CCO | C11H14O3
reactant | potassium | [K] | K
reactant | 1-(3-chloropropyl)piperidine, hydrochloride | 250 mg | Cl.ClCCCN1CCCCC1
reactant | oxalic acid | 88 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | dimethyl-sulfoxyde | 4 mL | CS(=O)C | C2H6OS
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | diethyl oxide | 100 μL | C(C)OCC | C4H10O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 80 mL | O | H2O
product | trans-1-{3-[3-(3,4-dimethoxyphenyl)allyloxy]propyl}piperidine | 185 mg | COC=1C=C(C=CC1OC)/C=C/COCCCN1CCCCC1 | C19H29NO3
